US05780483
N-(4-Nitro 2-(phenylsulfonylamino)phenyl)-N'-phenyl urea was prepared from 4-nitro 2-(phenylsulfonylamino)aniline(82 mg) and phenyl isocyanate(33 mg) by method A. The reaction was cooled and then partitioned between saturated ammonium chloride and 9:1 methylene chloride and methanol. The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate/hexanes) to afford desired(30.8 mg, 26%). EI-MS m/z 413(M+H)+.

reactant | 4-nitro 2-(phenylsulfonylamino)aniline | 82 mg | [N+](=O)([O-])C1=CC(=C(N)C=C1)NS(=O)(=O)C1=CC=CC=C1 | C12H11N3O4S
reactant | phenyl isocyanate | 33 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-(4-Nitro 2-(phenylsulfonylamino)phenyl)-N'-phenyl urea | [N+](=O)([O-])C1=CC(=C(C=C1)NC(=O)NC1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C19H16N4O5S
